US05189054
Scheme I, step d2 : 3-[(m-fluorophenacyl)amino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole
Mix 3-[(m-fluorophenacyl)amino]-2-carbmethoxy-6-chloroindole (1.5 g, 4.3 mmol), di-tert-butyl dicarbonate (982 mg, 4.5 mmol), tetrahydrofuran (5 mL), dimethylaminopyridine (42 mg, 0.4 mmol) and stir for several minutes. Dilute the reaction with ethyl acetate, wash with water, dry over magnesium sulfate, filter and concentrate in vacuo to yield the title compound.

reactant | 3-[(m-fluorophenacyl)amino]-2-carbmethoxy-6-chloroindole | 4.3 mmol, 1.5 g | FC=1C=C(C(CNC2=C(NC3=CC(=CC=C23)Cl)C(=O)OC)=O)C=CC1 | C18H14ClFN2O3
reactant | di-tert-butyl dicarbonate | 4.5 mmol, 982 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | dimethylaminopyridine | 0.4 mmol, 42 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(m-fluorophenacyl)amino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole | FC=1C=C(C(CNC2=C(N(C3=CC(=CC=C23)Cl)C(=O)OC(C)(C)C)C(=O)OC)=O)C=CC1 | C23H22ClFN2O5
